US07491722B2
5-Acetyl-2-ethyl-4-(isoxazol-3-ylamino)-6-phenylpyridazin-3(2H)-one
To a stirred solution of 80 mg (0.278 mmol) of 5-acetyl-2-ethyl-4-nitro-6-phenylpyridazin-3(2H)-one (Dal Piaz, V et al, J. Med. Chem. 1997, 40, 1417) in ethanol (4 mL), 3-aminoisoxazol (70 mg, 0.834 mmol) was added. The resulting mixture was stirred at room temperature for four days and the final product was collected by filtration and washed with diethylether to yield the title compound (58 mg, 63.7% yield).

reactant | 5-acetyl-2-ethyl-4-nitro-6-phenylpyridazin-3(2H)-one | 0.278 mmol, 80 mg | C(C)(=O)C1=C(C(N(N=C1C1=CC=CC=C1)CC)=O)[N+](=O)[O-] | C14H13N3O4
reactant | 3-aminoisoxazol | 0.834 mmol, 70 mg | NC1=NOC=C1 | C3H4N2O
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 5-Acetyl-2-ethyl-4-(isoxazol-3-ylamino)-6-phenylpyridazin-3(2H)-one | 58 mg, 63.7% yield | C(C)(=O)C1=C(C(N(N=C1C1=CC=CC=C1)CC)=O)NC1=NOC=C1 | C17H16N4O3
